### PR TITLE
feat: WF/Fix.lean: only refine fix’s ih for atomic discriminant onlys

### LINKED ISSUE #7322: Type incorrect translation of well-founded function with `dite` in the type
PR #7166 was green, mathlib built, I sent it to the queue, and it came back with a pretty tricky failure in the recursive theorem `Std.Tactic.BVDecide.BVExpr.bitblast.blastShiftLeftConst.go_denote_eq`.

After some debugging I found out that the issue is in `WF/Fix.lean`, which I didn’t even change! But it seems by reordering the parameters I have uncovered a pre-existing bug:

```lean

/--
warning: declaration uses 'sorry'
---
error: application type mismatch
  congrArg (fun _a => _a = ⟨idx, h⟩) (x✝ n✝ (id sorry))
argument has type
  a = if hidx : idx < distance then ⟨idx, hidx⟩ else a
but function has type
  (a = if hidx : idx < distance then ⟨idx, hidx⟩ else a) →
    (fun _a => _a = ⟨idx, h⟩) a = (fun _a => _a = ⟨idx, h⟩) (if hidx : idx < distance then ⟨idx, hidx⟩ else a)
-/
#guard_msgs in
theorem demo (distance : Nat) (idx : Nat) (a : Fin distance) (fuel : Nat) :
    a = if hidx : idx < distance then Fin.mk idx hidx else a := by
  cases fuel
  · sorry
  next fuel =>
    split
    · rw [demo distance idx a fuel]
      sorry
    · rfl
termination_by fuel
decreasing_by sorry
```

The problem is that refining the induction hypothesis through the matcher introduced by `split` changes the type from
```
a = @dite (Fin distance) (idx < distance) (idx.decLt distance) (fun hidx => ⟨idx, hidx⟩) 
```
to
```
  a = @dite (Fin distance) (idx < distance) (isTrue h) (fun hidx => ⟨idx, hidx⟩) fun hidx => a
```
and that’s no longer type correct. 

Tricky!

(A workaround is to do the `rw` before the `split`, but maybe I can find a fix.)

### Versions

Lean 4.19.0-nightly-2025-03-04

### Impact

Add :+1: to [issues you consider important](https://github.com/leanprover/lean4/issues?q=is%3Aissue+is%3Aopen+sort%3Areactions-%2B1-desc). If others are impacted by this issue, please ask them to add :+1: to it.

### PR DESCRIPTION
**Pull request by nomeata**
This PR changes the internal construction of well-founded recursion, to not change the type of `fix`’s induction hypothesis in non-defeq ways.

Fixes #7322 and hopefully unblocks #7166.

### CODE REVIEW

File: src/Lean/Elab/PreDefinition/WF/Fix.lean [hunk 1]
```diff
@@ -32,18 +37,21 @@ private def mkDecreasingProof (decreasingProp : Expr) : TermElabM Expr := do
...
+      trace[Elab.definition.wf] "replaceRecApp: eta-expanding{indentExpr e}"
       loop F (← etaExpand e)
     else
       let args := e.getAppArgs
       let r := mkApp F (← loop F args[fixedPrefixSize]!)
       let decreasingProp := (← whnf (← inferType r)).bindingDomain!
       let r := mkApp r (← mkDecreasingProof decreasingProp)
-      return mkAppN r (← args[fixedPrefixSize+1:].toArray.mapM (loop F))
+      let r := mkAppN r (← args[fixedPrefixSize+1:].toArray.mapM (loop F))
+      return r
```
Comment (nomeata) [inline src/Lean/Elab/PreDefinition/WF/Fix.lean:54]:
```suggestion
      return mkAppN r (← args[fixedPrefixSize+1:].toArray.mapM (loop F))
```
